US06258824B1
34A. 3-(6-Bromo-2-methoxy-quinolin-4-yl)-phenol
To a solution of 6-bromo-4-(3-methoxy-phenyl)-2-methoxy-quinoline (1.31 g, 3.81 mmol) in dichloromethane (CH2Cl2. 30 ml) was added a solution of BBr3 in CH2Cl2 (1M, 11.4 ml, 11.4 mmol) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 4 hours. It was poured into water. The organic layer was washed with brine, dried over MgSO4 and concentratred to give the tiltle compound of example 34A (640 mg, 41% yield).

reactant | 6-bromo-4-(3-methoxy-phenyl)-2-methoxy-quinoline | 3.81 mmol, 1.31 g | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OC | C17H14BrNO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 11.4 mmol, 1M, 11.4 ml | C(Cl)Cl | CH2Cl2
product | 3-(6-Bromo-2-methoxy-quinolin-4-yl)-phenol | 640 mg, 41% yield | BrC=1C=C2C(=CC(=NC2=CC1)OC)C=1C=C(C=CC1)O | C16H12BrNO2
